US08022192B2
To a suspension of 1-acetyl-4-[(3-fluoro-4-methyl-phenyl)methyl]-1,2-dihydro-5-methyl-3H-pyrazol-3-one (0.32 g) in acetonitrile (3 mL) and tetrahydrofuran (1 mL) was added potassium carbonate (0.253 g) under stirring at room temperature. After stirring the mixture at 50° C. for 1 hour, 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide (0.849 g) was added to the mixture. The mixture was stirred at 50° C. for 2 hours. After the reaction completed, the insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/10 to 1/5) to give 1-acetyl-4-[(3-fluoro-4-methyl-phenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.884 g).

reactant | 1-acetyl-4-[(3-fluoro-4-methyl-phenyl)methyl]-1,2-dihydro-5-methyl-3H-pyrazol-3-one | 0.32 g | C(C)(=O)N1NC(C(=C1C)CC1=CC(=C(C=C1)C)F)=O | C14H15FN2O2
reactant | potassium carbonate | 0.253 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | 0.849 g | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-acetyl-4-[(3-fluoro-4-methyl-phenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.884 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC(=C(C=C1)C)F)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C40H57FN2O11
